US07060827B2
In like manner to the preparation of (±)-N4-(3,4-difluorophenyl)-N2-(2,3-dihydro-2-methoxycarbonylbenzofuran-5-yl)-5-fluoro-2,4-pyrimidinediamine, the reaction of (±)-5-amino-2,3-dihydro-2-methoxycarbonylbenzofuran with 2-chloro-N4-(3,4-difluoromethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine gave (±)-N2-(2,3-dihydro-2-methoxycarbonylbenzofuran-5-yl)-N4-(3,4-difluoromethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 10.36 (bs, 1H), 9.93 (bs, 1H), 8.22 (d, 1H, J=4.8 Hz), 7.91 (bs, 1H), 7.38 (m, 3H), 7.15 9bd, 1H, J=8.7 Hz), 6.79 (d, 1H, J=6.0 Hz), 5.33 (dd, 1H, J=6.3 and 6.6 Hz), 3.69 (s, 3H), 3.50 (dd, 1H, J=10.5 and 10.8 Hz), 3.22 (dd, 1H, J=6.0 Hz); LCMS: purity: 100%; MS (m/e): 461 (MH+).

reactant | (±)-5-amino-2,3-dihydro-2-methoxycarbonylbenzofuran | NC=1C=CC2=C(CC(O2)C(=O)OC)C1 | C10H11NO3
reactant | 2-chloro-N4-(3,4-difluoromethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=C2C(=C(C(=C1)OCO2)F)F)F | C11H5ClF3N3O2
product | (±)-N2-(2,3-dihydro-2-methoxycarbonylbenzofuran-5-yl)-N4-(3,4-difluoromethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | COC(=O)C1OC2=C(C1)C=C(C=C2)NC2=NC=C(C(=N2)NC2=C1C(=C(C(=C2)OCO1)F)F)F | C21H15F3N4O5
